US08563723B2
4-{[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-sulfamoyl}-benzoic acid (Compound 45)
Under N2 atmosphere, 2.27 g 4,N-diethyl-4,5-dihydro-pyrazole-1-carboxamidine was dissolved in 30 mL dry DCM, and 5.17 ml DiPEA and 2.98 g of 4-(chlorosulfonyl)benzoic acid were added. The mixture was stirred overnight at room temperature and evaporated to dryness. The residue was purified by flash chromatography (first column with DCM/MeOH/NH4OH 92:7.5:0.5; second column with DCM/MeOH/Acetic acid 92:7.5:0.5) to yield 0.26 g (4%) of product (mono-DiPEA salt) as an off-white amorphous powder. 1H NMR (400 MHz, CDCl3) δ 0.98 (t, J=7.4 Hz, 3H), 1.27 (t, J=7.2 Hz, 3H), 1.53-1.81 (m, 2H), 3.15-3.30 (broad peak, 1H), 3.43-3.66 (broad peak, 3H), 4.01-4.20 (broad peak, 1H), 6.97 (br. s., 1H), 7.90 (d, J=8.1 Hz, 2H), 8.14 (d, J=8.1 Hz, 2H), 9.69 (br. s., 1H).

reactant | 4,N-diethyl-4,5-dihydro-pyrazole-1-carboxamidine | 2.27 g | C(C)C1C=NN(C1)C(=N)NCC | C8H16N4
reactant | DiPEA | 5.17 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(chlorosulfonyl)benzoic acid | 2.98 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-{[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-sulfamoyl}-benzoic acid | 0.26 g, 4% | C(C)NC(N1N=CC(C1)CC)=NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C15H20N4O4S
